US04242510
4-Nitrobenzyl 7-[2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-propoxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer, 6.7 g.), tetrahydrofuran (200 ml.), methanol (67 ml.), acetic acid (2 ml.), water (6 ml.) and 10% palladium-carbon (3.3 g.) were treated in a similar manner to that of Example 18-(2) to give 7-[2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-propoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 2.59 g.).

reactant | 4-Nitrobenzyl 7-[2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-propoxyiminoacetamido]-3-cephem-4-carboxylate | 6.7 g | O1CCSC=C1C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOCCC | C23H24N4O8S2
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | methanol | 67 ml | CO | CH4O
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-carbon | 3.3 g | [C].[Pd]
solvent | water | 6 ml | O | H2O
product | 7-[2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-propoxyiminoacetamido]-3-cephem-4-carboxylic acid | 2.59 g | O1CCSC=C1C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCCC | C16H19N3O6S2
